US07629294B2
5-chloro-7-(1,2-dimethylpropylamino)-6-(3-methylthiophen-2-yl)pyrazolo[1,5-α]pyrimidine-3-carboxamide
At room temperature, 15 ml of concentrated aqueous ammonia were added to 4.0 g (10 mmol) of 5-chloro-7-(1,2-dimethylpropylamino)-6-(3-methylthiophen-2-yl)pyrazolo[1,5-α]pyrimidine-3-carbonyl chloride in 30 ml of tetrahydrofuran. The mixture was stirred at 22° C. for 16 hours, and 50 ml of ethyl acetate were then added. The organic phase was separated off, dried over sodium sulphate and concentrated under reduced pressure. This gave 3.0 g of 5-chloro-7-(1,2-dimethyl-propylamino)-6-(3-methylthiophen-2-yl)pyrazolo[1,5-α]pyrimidine-3-carboxamide (logPs=3.5; content according to HPLC: 94%)

reactant | ammonia | 15 ml | N | H3N
reactant | 5-chloro-7-(1,2-dimethylpropylamino)-6-(3-methylthiophen-2-yl)pyrazolo[1,5-α]pyrimidine-3-carbonyl chloride | 10 mmol, 4.0 g | ClC1=NC=2N(C(=C1C=1SC=CC1C)NC(C(C)C)C)N=CC2C(=O)Cl | C17H18Cl2N4OS
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 5-chloro-7-(1,2-dimethylpropylamino)-6-(3-methylthiophen-2-yl)pyrazolo[1,5-α]pyrimidine-3-carboxamide | ClC1=NC=2N(C(=C1C=1SC=CC1C)NC(C(C)C)C)N=CC2C(=O)N | C17H20ClN5OS
